US04098904
B. N,N,N'-Trimethyl-1,2-cyclohexanediamine
A solution of the N-formyl-N-[2-(dimethylamino)cyclohexanediamine (4 g.; 0.0235 mole) in 50 ml. of ether was added during 5 minutes to a solution of LAH (4 g.) in 250 ml. of ether and refluxed 17 hours. It was cooled in ice, and decomposed in succession with 4 ml. of H2O, 4 ml. of 15% NaOH, 12 ml. of H2O, stirred 1 hour at room temperature and filtered. The cake was washed with ether, and the ether was distilled. The titled amine (B) residue was distilled at 14 mm, b.p. 86°-87°, 3 g. (82% yield). ir NH 3680 v.w., 3320; CH 2940, 2820; N-alkyl 2780; CH 1475, 1450; C-N/other 1270, 1155, 1145, 1125, 1060, 1045, 1005, 870, 805, 775. nmr in CDCl3 (60 MHz) was in accord. Mass spectrum M+ 156.

reactant | 2-(dimethylamino)cyclohexanediamine | 0.0235 mole, 4 g | CN(C1C(CCCC1)(N)N)C | C8H19N3
reactant | ether | CCOCC | C4H10O
reactant | LAH | 4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | [OH-].[Na+]
solvent | H2O | O | H2O
product | N,N,N'-Trimethyl-1,2-cyclohexanediamine | 82% yield | CN(C1C(CCCC1)NC)C | C9H20N2
